### PR TITLE
feat(Topology/EMetricSpace): continuity of arc length

### PR DESCRIPTION
**Pull request by SuccessMoses**
fixes half of #31751

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Did you use mathport or manually translate the file?

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 1]
```diff
@@ -0,0 +1,441 @@
...
+
+end
+
+section
+
+variable [TopologicalSpace α] [OrderTopology α] (a b) (hbdd : LocallyBoundedVariationOn f Set.univ)
+         (hcont : Continuous f)
+include hbdd hcont
+
+theorem continuous_arlclength : Continuous (arclength f a) := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuous_arclength : Continuous (arclength f a) := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 2]
```diff
@@ -0,0 +1,441 @@
...
+  rw [←continuousOn_univ] at *
+  exact continuousOn_arclength f _ Set.ordConnected_univ hbdd hcont
+
+theorem continuous_arclenght' : Continuous (fun x ↦ arclength f x b) := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuous_arclength_left : Continuous (arclength f · b) := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 3]
```diff
@@ -0,0 +1,441 @@
...
+
+Topology, Metric space, Continuity
+-/
+
+open ENNReal
+
+variable {α E : Type*} [LinearOrder α] [PseudoEMetricSpace E] (f : α → E) {a b c : α}
+
+/--
+The length of the arc  of the curve `f : α → E` between two points `a` and `b`, is defined
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
The length of the arc of the curve `f : α → E` between two points `a` and `b`, is defined
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 4]
```diff
@@ -0,0 +1,441 @@
...
+
+/-!
+# Arc length
+
+This file is file is devoted to the definition of the `arclength` of a function `f` between
+`a` and `b` and the continuity of the single variable function `arclength a` or
+`fun x ↦ arclength x b`.
+
+## Main results
+
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 5]
```diff
@@ -0,0 +1,441 @@
...
+as the variation of `f` on the closed interval `[a, b]`. Equals zero when `b ≤ a`.
+-/
+noncomputable def arclength (a b : α) : ℝ≥0∞ :=
+  eVariationOn f (Set.Icc a b)
+
+-- Fixme, does this exist already?
+theorem mem_nhdsWithin_Ici_iff_exists_Ico_subset {α : Type*}
+    [TopologicalSpace α] [LinearOrder α] [OrderTopology α]
+    {a u' : α} {s : Set α} (hu' : a < u') :
+  s ∈ nhdsWithin a (Set.Ici a) ↔ ∃ (u : α) (_ : u ∈ Set.Ioc a u'), Set.Ico a u ⊆ s := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
  s ∈ nhdsWithin a (Set.Ici a) ↔ ∃ u ∈ Set.Ioc a u', Set.Ico a u ⊆ s := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 6]
```diff
@@ -0,0 +1,441 @@
...
+  have ha : ∃ u, a < u := ⟨u', hu'⟩
+  have basis :=
+    nhdsGE_basis_of_exists_gt ha
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
  have basis := nhdsGE_basis_of_exists_gt ha
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 7]
```diff
@@ -0,0 +1,441 @@
...
+section
+open OrderDual
+variable {α : Type*} [LinearOrder α] {E : Type*} [PseudoEMetricSpace E] {f : α → E}
+         {s : Set α}
+
+theorem LocallyBoundedVariationOn.comp_ofDual (hbdd : LocallyBoundedVariationOn f s) :
+    LocallyBoundedVariationOn (f ∘ ofDual) (ofDual ⁻¹' s) := by
+  intro a b ha hb
+  have ha' : ofDual a ∈ s := ha
+  have hb' : ofDual b ∈ s := hb
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
  change ofDual a ∈ s at ha
  change ofDual b ∈ s at hb
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 8]
```diff
@@ -0,0 +1,441 @@
...
+
+theorem arclength_anti (c : α) : Antitone (fun x ↦ arclength f x c) := by
+  refine fun a b hab ↦ eVariationOn.mono _ ?_
+  rintro x ⟨hbx, hxc⟩
+  exact ⟨hab.trans hbx, hxc⟩
+
+theorem arclength_mono (a : α) : Monotone (arclength f a) := by
+  refine fun x y hxy ↦ eVariationOn.mono _ ?_
+  rintro z ⟨haz, hzx⟩
+  exact ⟨haz, hzx.trans hxy⟩
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem arclength_mono (a : α) : Monotone (arclength f a) :=
  fun _ _ hxy ↦ eVariationOn.mono _ fun _ ⟨haz, hzx⟩ ↦ ⟨haz, hzx.trans hxy⟩
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 9]
```diff
@@ -0,0 +1,441 @@
...
+
+theorem arclength_add (hab : a ≤ b) (hbc : b ≤ c) :
+    arclength f a b + arclength f b c  = arclength f a c := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
    arclength f a b + arclength f b c = arclength f a c := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 10]
```diff
@@ -0,0 +1,441 @@
...
+  rw [this, eVariationOn.comp_ofDual]
+
+theorem arclength_eq : arclength f a = (fun y ↦ arclength (f ∘ ofDual) y (toDual a)) ∘ toDual := by
+  ext x; simp
+
+theorem arclength'_eq (b : α) :
+    (fun x ↦ arclength f x b) = arclength (f ∘ ofDual) (toDual b) ∘ toDual := by
+  ext x; simp
+
+-- set_option trace.Meta.Tactic.simp true
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 11]
```diff
@@ -0,0 +1,441 @@
...
+  exact continuousOn_const.congr (fun x hx ↦ arclength_eq_zero _ (trans h hx))
+
+variable [OrderTopology α]
+
+theorem continuousAt_arclength_of_gt (h : b < a) : ContinuousAt (arclength f a) b :=
+  continuousAt_const.congr <|
+    Filter.eventuallyEq_of_mem (Iio_mem_nhds h) <|
+      fun x hx ↦ (arclength_eq_zero _ (by simp at hx; exact hx.le)).symm
+
+theorem continuousAt_arclength'_of_gt (h : b < a) : ContinuousAt (fun x ↦ arclength f x b) a :=
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuousAt_arclength_left_of_gt (h : b < a) : ContinuousAt (arclength f · b) a :=
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 12]
```diff
@@ -0,0 +1,441 @@
...
+        (fun x hx ↦ ((arclength_add f hca hx).symm)) (arclength_add f hca le_rfl).symm
+  apply ContinuousAt.continuousWithinAt
+  exact ContinuousAt.congr_of_eventuallyEq (continuous_const.continuousAt) (
+    Filter.eventuallyEq_of_mem (isOpen_Iio.mem_nhds (lt_of_not_ge hca)) <|
+      (fun x hx ↦ by apply arclength_eq_zero f (le_of_lt hx))
+  )
+
+theorem continuous_left_arclength'
+  (hcont : ContinuousWithinAt f (Set.Ioc a b) b) /- f is left continuous at b -/ :
+    ContinuousWithinAt (fun x ↦ arclength f x c) (Set.Iic b) b := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuous_left_arclength_left
  (hcont : ContinuousWithinAt f (Set.Ioc a b) b) /- f is left continuous at b -/ :
    ContinuousWithinAt (arclength f · c) (Set.Iic b) b := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 13]
```diff
@@ -0,0 +1,441 @@
...
+    · exact arclength_eq_zero f hba
+    · intro x hx; exact arclength_eq_zero f <| trans hx hba
+  · refine (((ENNReal.continuousOn_sub_left _).continuousAt ?_).comp_continuousWithinAt <|
+      continuous_left_arclength' f hab hrect hcont).congr (fun x hx ↦ arclength_sub f hx hrect)
+        (arclength_sub f le_rfl hrect)
+    rw [arclength_self]; exact isOpen_ne.mem_nhds ENNReal.top_ne_zero.symm
+
+theorem continuous_right_arclength'
+  (hcont : ContinuousWithinAt f (Set.Ico a b) a) /-f is right continuous at a-/ :
+    ContinuousWithinAt (fun x ↦ arclength f x b) (Set.Ici a) a := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuous_right_arclength_left
  (hcont : ContinuousWithinAt f (Set.Ico a b) a) /-f is right continuous at a-/ :
    ContinuousWithinAt (arclength f · b) (Set.Ici a) a := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 14]
```diff
@@ -0,0 +1,441 @@
...
+  refine (lt_or_ge x a).elim (fun hxa ↦ ((continuousOn_Iic_arclength_of_ge f le_rfl).continuousAt
+    <| Iic_mem_nhds hxa).continuousWithinAt)
+    (fun hax ↦ (continuousAt_iff_continuous_left_right.2 ⟨?_, ?_⟩).continuousWithinAt)
+  · apply continuous_left_arclength f (ne_top_of_le_ne_top hrect <| arclength_mono f a hx)
+    exact (hcont x ⟨hax, hx⟩).mono (fun y hy ↦ ⟨hy.1.le, hy.2.trans hx⟩)
+  · apply continuous_right_arclength f hxb (ne_top_of_le_ne_top hrect <| arclength_anti f b hax)
+    exact (hcont x ⟨hax, hx⟩).mono (fun y hy ↦ ⟨hax.trans hy.1, hy.2.le⟩)
+
+theorem continuousOn_Ici_arclength' (hcont : ContinuousOn f (Set.Icc a b)) :
+    ContinuousOn (fun x ↦ arclength f x b) (Set.Ici a) := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuousOn_Ici_arclength_left (hcont : ContinuousOn f (Set.Icc a b)) :
    ContinuousOn (arclength f · b) (Set.Ici a) := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 15]
```diff
@@ -0,0 +1,441 @@
...
+      f hconn hbdd hcont hxs).congr (fun y hy ↦ (arclength_add f hax <| h y hy).symm) x hxs
+  push_neg at h; obtain ⟨y, hys, hyx⟩ := h
+  obtain hay | hya := le_total a y
+  · apply ((continuous_add_left _).continuousAt.comp_continuousWithinAt <|
+      continuousOn_arclength_of_mem f hconn hbdd hcont hys x hxs).congr_of_eventuallyEq
+      (Set.EqOn.eventuallyEq_of_mem _ <| inter_mem_nhdsWithin s <| Ici_mem_nhds hyx)
+    exacts [(arclength_add f hay hyx.le).symm, fun z hz ↦ (arclength_add f hay hz.2).symm]
+  exact continuousOn_arclength_of_mem f hconn hbdd hcont (hconn.out hys hxs ⟨hya, hax⟩) x hxs
+
+theorem continuousOn_arclength' : ContinuousOn (fun x ↦ arclength f x b) s := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem continuousOn_arclength_left : ContinuousOn (arclength f · b) s := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 16]
```diff
@@ -0,0 +1,441 @@
...
+    arclength (f ∘ ofDual) (toDual b) (toDual a) = arclength f a b := by
+  unfold arclength
+  have : Set.Icc (toDual b) (toDual a) = ofDual ⁻¹' (Set.Icc a b) := by simp
+  rw [this, eVariationOn.comp_ofDual]
+
+theorem arclength_eq : arclength f a = (fun y ↦ arclength (f ∘ ofDual) y (toDual a)) ∘ toDual := by
+  ext x; simp
+
+theorem arclength'_eq (b : α) :
+    (fun x ↦ arclength f x b) = arclength (f ∘ ofDual) (toDual b) ∘ toDual := by
```
Comment (SnirBroshi) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem arclength_left_eq (b : α) :
    (arclength f · b) = arclength (f ∘ ofDual) (toDual b) ∘ toDual := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: No longer exists after the cleanup PR.

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: [Easy proof in the cleanup PR](https://github.com/SuccessMoses/mathlib4/pull/1/files#diff-df154268c6ed0894c9d92118c521c27696938f15e40a55b8abc5e104f02205daR554-R559)

**Review by alreadydone — APPROVED** [review]

**Review by alreadydone — CHANGES_REQUESTED** [review]
Thanks a lot for the review! I've adopted the left/right naming convention in the cleanup PR.

**Review by alreadydone — APPROVED** [review]
Let's deal with only the Arclength file in this PR; if you already ported the other main file you are welcome open another PR. (I guess I first need to PR preliminary lemmas, some of which need to be moved to appropriate files.)

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 17]
```diff
@@ -0,0 +1,373 @@
...
+
+variable {α E : Type*} [LinearOrder α] [PseudoEMetricSpace E] (f : α → E) {a b c : α}
+
+/-- The length of the arc of the curve `f : α → E` between two points `a` and `b` is defined
+as the variation of `f` on the closed interval `[a, b]`. Equals zero when `b ≤ a`. -/
+noncomputable def arclength (a b : α) : ℝ≥0∞ :=
+  eVariationOn f (Set.Icc a b)
+
+/-- `arclength f a b` is the supremum of finite sums of `edist (f <| u i) (f <| u <| i+1)` for `u`
+satisfying the same conditions as for `evariation_on` with the addition of:
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
satisfying the same conditions as for `eVariationOn` with the addition of:
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 18]
```diff
@@ -0,0 +1,373 @@
...
+  induction n with
+  | zero => rw [arclength_self, Finset.sum_range_zero]
+  | succ k ih => rw [Finset.sum_range_succ, ih, arclength_add f (hu <| zero_le k) (hu k.le_succ)]
+
+theorem arclength_sub₀ (hba : b ≤ a) : arclength f a b = arclength f a c - arclength f b c := by
+  rw [arclength_eq_zero f hba, eq_comm]
+  exact tsub_eq_zero_of_le (arclength_anti f c hba)
+
+theorem arclength_sub' (hbc : b ≤ c) (hac : arclength f b c ≠ ∞) :
+    arclength f a b =  arclength f a c - arclength f b c := by
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
    arclength f a b = arclength f a c - arclength f b c := by
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 19]
```diff
@@ -0,0 +1,373 @@
...
+
+theorem arclength_sum {n : ℕ} {u : ℕ → α} (hu : Monotone u) :
+    ∑ i ∈ Finset.range n, arclength f (u i) (u (i + 1)) = arclength f (u 0) (u n) := by
+  induction n with
+  | zero => rw [arclength_self, Finset.sum_range_zero]
+  | succ k ih => rw [Finset.sum_range_succ, ih, arclength_add f (hu <| zero_le k) (hu k.le_succ)]
+
+theorem arclength_sub₀ (hba : b ≤ a) : arclength f a b = arclength f a c - arclength f b c := by
+  rw [arclength_eq_zero f hba, eq_comm]
+  exact tsub_eq_zero_of_le (arclength_anti f c hba)
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: This is a pretty weird statement. They are equal because both sides are zero. I wouldn't keep this.

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 20]
```diff
@@ -0,0 +1,373 @@
...
+noncomputable def arclength (a b : α) : ℝ≥0∞ :=
+  eVariationOn f (Set.Icc a b)
+
+/-- `arclength f a b` is the supremum of finite sums of `edist (f <| u i) (f <| u <| i+1)` for `u`
+satisfying the same conditions as for `evariation_on` with the addition of:
+* `u 0` is `a`.
+* `u 1` is **not** `a`. -/
+theorem arclength_eq_iSup (hab : a ≤ b) : arclength f a b =
+  ⨆ p : ℕ × { u : ℕ → α // Monotone u ∧ (∀ i, u i ∈ Set.Icc a b) ∧ u 0 = a ∧ a < u 1},
+    ∑ i ∈ Finset.range p.1, edist (f (p.2.1 (i + 1))) (f (p.2.1 i)) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: There's nothing about this which is specific to `arclength`. You should just do this for `eVariationOn`. To be more precise, you could break this into a few statements: 
```lean
theorem eVariationOn_eq_iSup_of_mem {s : Set α} {a : α} (ha : a ∈ s) :
    eVariationOn f s =
      ⨆ p : ℕ × { u : ℕ → α // Monotone u ∧ (∀ i, u i ∈ s) ∧ ∃ m, u m = a ∧ a < u (m + 1)},
        ∑ i ∈ Finset.range p.1, edist (f (p.2.1 (i + 1))) (f (p.2.1 i)) := by
  sorry
```
and
```lean
theorem eVariationOn_eq_iSup_of_isLeast {s : Set α} {a : α} (ha : IsLeast s a) :
    eVariationOn f s =
      ⨆ p : ℕ × { u : ℕ → α // Monotone u ∧ (∀ i, u i ∈ s) ∧ u 0 = a ∧ a < u 1},
        ∑ i ∈ Finset.range p.1, edist (f (p.2.1 (i + 1))) (f (p.2.1 i)) := by
  sorry
```
However, I would place them near `eVariationOn.add_point`, and probably phrase them in that language (instead of in terms of `iSup`).

Also, can you explain why this version is necessary? It would be good to know in the docstring its utility.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 21]
```diff
@@ -0,0 +1,373 @@
...
+
+theorem continuousAt_arclength_left (h : b < a) : ContinuousAt (arclength f · b) a :=
+  continuousAt_const.congr <| Filter.eventuallyEq_of_mem (Ioi_mem_nhds h)
+    fun x hx ↦ (arclength_eq_zero _ (le_of_lt <| by simpa)).symm
+
+variable (hab : a < b) (hrect : arclength f a b ≠ ∞) /- f is rectifiable on [a,b] -/
+include hab hrect
+
+theorem continuous_right_self_arclength
+    (cont : ContinuousWithinAt f (Set.Ico a b) a) /- f is right continuous at a -/ :
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean:183]: I think you should write this as:

```suggestion
    (cont : ContinuousWithinAt f (Set.Ici a) a) /- f is right continuous at a -/ :
```
It's what you need in the proof, it's mathematically equivalent, and the definitionally unfolded version `Tendsto f (𝓝[>] a) (𝓝 (f a))` involves a more common filter (`𝓝[>] a` as opposed to `𝓝[Ico a b] a`).

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 22]
```diff
@@ -0,0 +1,373 @@
...
+
+variable [OrderTopology α]
+
+theorem continuousAt_arclength_right (h : b < a) : ContinuousAt (arclength f a) b :=
+  continuousAt_const.congr <| Filter.eventuallyEq_of_mem (Iio_mem_nhds h)
+    fun x hx ↦ (arclength_eq_zero _ (le_of_lt <| by simpa)).symm
+
+theorem continuousAt_arclength_left (h : b < a) : ContinuousAt (arclength f · b) a :=
+  continuousAt_const.congr <| Filter.eventuallyEq_of_mem (Ioi_mem_nhds h)
+    fun x hx ↦ (arclength_eq_zero _ (le_of_lt <| by simpa)).symm
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: I think these are also weird, since you really just want to say that `arclength f a = 0` there. So I would remove them. In fact, that's a lemma you should probably add: `Set.EqOn (arclength f a) 0 (Iic a)`.

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 23]
```diff
@@ -0,0 +1,373 @@
...
+
+variable (hab : a < b) (hrect : arclength f a b ≠ ∞) /- f is rectifiable on [a,b] -/
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: This links it to the `BoundedVariationOn` API, but they are definitionally the same thing.
```suggestion
variable (hab : a < b) (hrect : BoundedVariationOn f (Icc a b)) /- f is rectifiable on [a,b] -/
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 24]
```diff
@@ -0,0 +1,373 @@
...
+include hab hrect
+
+theorem continuous_right_self_arclength
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: I'm not sure what about this theorem is actually specific to arc length. It seems to me that it should be the case that if `ContinuousWithinAt f s a` and `BoundedVariationOn f s` (or even `LocallyBoundedVariationOn f s`, or even weaker: `BoundedVariationOn f t` for some `a ∈ t ⊆ s`), then `ContinuousWithinAt (fun x ↦ eVariationOn f (s ∩ Iic x)) (Ici a) a`.

If this works, then you should prove this more general version, then deduce the arclength version from it.

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 25]
```diff
@@ -0,0 +1,373 @@
...
+
+@[expose] public section
+
+open ENNReal
+
+variable {α E : Type*} [LinearOrder α] [PseudoEMetricSpace E] (f : α → E) {a b c : α}
+
+/-- The length of the arc of the curve `f : α → E` between two points `a` and `b` is defined
+as the variation of `f` on the closed interval `[a, b]`. Equals zero when `b ≤ a`. -/
+noncomputable def arclength (a b : α) : ℝ≥0∞ :=
```
Comment (j-loreaux) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]: maybe this is 🌶️, but I think this should be:
```suggestion
noncomputable def arcLength (a b : α) : ℝ≥0∞ :=
```

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 26]
```diff
@@ -11,9 +11,9 @@ public import Mathlib.Data.Set.Operations
 /-!
```
Comment (alreadydone) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean:11]: File name (and in Mathlib.lean) needs to be updated to ArcLength

File: Mathlib/Topology/EMetricSpace/Arclength.lean [hunk 27]
```diff
@@ -0,0 +1,378 @@
...
+variable {α E : Type*} [LinearOrder α] [PseudoEMetricSpace E] (f : α → E) {a b c : α}
+
+/-- The length of the arc of the curve `f : α → E` between two points `a` and `b` is defined
+as the variation of `f` on the closed interval `[a, b]`. Equals zero when `b ≤ a`. -/
+noncomputable def arcLength (a b : α) : ℝ≥0∞ :=
+  eVariationOn f (Set.Icc a b)
+
+theorem arcLength_eq : arcLength f a b = eVariationOn f (Set.Icc a b) := rfl
+
+theorem arcLength_ne_iff : (arcLength f a b ≠ ∞) ↔ BoundedVariationOn f (Set.Icc a b) := by rfl
```
Comment (alreadydone) [inline Mathlib/Topology/EMetricSpace/Arclength.lean]:
```suggestion
theorem arcLength_ne_top_iff : arcLength f a b ≠ ∞ ↔ BoundedVariationOn f (Set.Icc a b) := .rfl
```
I think we should still use `arcLength f a b ≠ ∞` as the default spelling, and rewrite with this when needed.

Or possibly introduce an abbrev `RectifiableOn f a b := arcLength f a b ≠ ∞` ...

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 22 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: The point is that it allows us to prove the continuity of `arclength f a` and `(arclength f · b)` on the whole type `α` (with appropriate assumptions), not just restricted to the interval `Icc a b`. This makes the final continuity results easier to apply.
It's probably a good idea to restore the `of_gt` suffix in the names which I removed in my cleanup PR, though, just to indicate these are the edge cases rather than the main cases of interest.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean (hunk 21 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/ArcLength.lean:183]: Good suggestion but if we consider this as a lemma towards `continuous_right_arcLength_right` it would be wise to check whether the proof there becomes more difficult ...

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 19 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: It's used twice to prove `arcLength_sub` which is in turn used twice to prove `continuous_left_arcLength_right`. I can make it private if you want.

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 28]
```diff
@@ -0,0 +1,378 @@
...
+      _ = arcLength f (u 0) (u <| n+1) := arcLength_sum f hu
+      _ ≤ arcLength f a b := hea ▸ arcLength_mono f a (hmem _).2
+
+theorem continuous_right_arcLength_right
+    (cont : ContinuousWithinAt f (Set.Ico a b) a) /- f is right continuous at a -/ :
+    ContinuousWithinAt (arcLength f c) (Set.Ici a) a := by
+  by_cases hca : c ≤ a
+  · refine ((continuous_add_left _).continuousAt.comp_continuousWithinAt <|
+      continuous_right_self_arcLength f hab hrect cont).congr
+        (fun x hx ↦ ((arcLength_add f hca hx).symm)) (arcLength_add f hca le_rfl).symm
```
Comment (alreadydone) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
        (fun x hx ↦ (arcLength_add f hca hx).symm) (arcLength_add f hca le_rfl).symm
```

File: Mathlib/Topology/EMetricSpace/ArcLength.lean [hunk 29]
```diff
@@ -0,0 +1,378 @@
...
+      obtain rfl | hxa := eq_or_ne a x
+      exacts [(arcLength_self f a).trans_le (zero_le ε), (h x ⟨hx.1.lt_of_ne hxa, hx.2⟩).elim]
+    push_neg at h; obtain ⟨d, hd⟩ := h
+    let e := min (u 1) d
+    have hae : a < e := lt_min hal hd.1
+    have hec : e < c := (min_le_right _ d).trans_lt hd.2
+    refine ⟨e, ⟨hae, hec.le.trans hc.2⟩, fun x hx ↦ (arcLength_mono f a hx.2.le).trans ?_⟩
+    obtain rfl | hε := eq_or_ne ε ⊤
+    · exact le_top
+    have : ε / 2 ≠ ⊤ := fun h ↦ (ENNReal.div_eq_top.1 h).elim (two_ne_zero ·.2) (hε ·.1)
```
Comment (alreadydone) [inline Mathlib/Topology/EMetricSpace/ArcLength.lean]:
```suggestion
    obtain rfl | hε := eq_or_ne ε ∞
    · exact le_top
    have : ε / 2 ≠ ∞ := fun h ↦ (ENNReal.div_eq_top.1 h).elim (two_ne_zero ·.2) (hε ·.1)
```

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 24 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: How does the `a ∈ t ⊆ s` suggestion work? What if `t = {a}` ?
You're right that the conclusion of this theorem doesn't include `b`, so you're free to take any `b > a` to arrive at the same conclusion (in particular locally bounded variation is enough). However it's better to think of this as an auxiliary result that shows right continuity at the left endpoint of a rectifiable interval: right continuity at an arbitrary point `c` in the interval [a,b] follows by splitting the arclength as a sum over [a,c] and [c,b], then applying this auxiliary result to [c,b].
Since we're eventually interested in full continuity results from both sides and at an arbitrary point, I'm not inclined to make this auxiliary result much more complicated.
Including `s` sounds like a reasonable request, I'll think about it.

File: Mathlib/Topology/EMetricSpace/Arclength.lean (hunk 20 above)
Comment (alreadydone) [reply Mathlib/Topology/EMetricSpace/Arclength.lean]: We might consider getting rid of this lemma using [eVariationOn.add_point](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/EMetricSpace/BoundedVariation.html#eVariationOn.add_point) ...

**Comment by Zeta-Wu** [comment]
Is this PR still alive? I want to use it.
